US04272437
Trans-Ethyl 2-methanesulfonyloxymethyl-1-cyclopropanecarboxylate
A solution of trans-ethyl 2-hydroxymethyl-1-cyclopropanecarboxylate (1.136 g, 7.88 mmol) in dry tetrahydrofuran (20 ml) was cooled to 0° C. (ice bath), treated dropwise with mesyl chloride (0.675 ml, 8.66 mmol) and then treated immediately with triethylamine (1.32 ml, 9.52 mmol). This solution was stirred at 0° C. for 1.5 h (tlc indicated no substrate left). After dilution with ether (200 ml), the solution was washed with water, saturated ammonium chloride (10 ml), brine and dried over anhydrous magnesium sulfate. Evaporation of the solvent under reduced pressure gave a clear oil, 1.690 g (97%) which was used as such for the next step without purification. ir (film) νmax : 1720 cm-1 (C=O); 1Hmr (CDCl3) δ: 4.13 (2H, q, J=7, CH2 --CH3, 3.05 (2H, s, CH2 --OMs), 2.0~0.6 (4H, m, cyclopropyl), 1.27 ppm (3H, t, J=7, CH3 --CH2).

reactant | trans-ethyl 2-hydroxymethyl-1-cyclopropanecarboxylate | 7.88 mmol, 1.136 g | OC[C@H]1[C@@H](C1)C(=O)OCC | C7H12O3
reactant | mesyl chloride | 8.66 mmol, 0.675 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | triethylamine | 9.52 mmol, 1.32 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Trans-Ethyl 2-methanesulfonyloxymethyl-1-cyclopropanecarboxylate | CS(=O)(=O)OC[C@H]1[C@@H](C1)C(=O)OCC | C8H14O5S
